US04670551
At an internal temperature of 5°-10°, a solution of 4.7 g of 3β,11β-diacetoxy-17,17-ethylenedioxyandrost-5-ene in 140 ml of tetrahydrofuran is added dropwise to a stirred suspension of 2.35 g of lithium aluminium hydride in 95 ml of tetrahydrofuran and then rinsed out with 9 ml of tetrahydrofuran, and the mixture is boiled under reflux for 12 hours. The reaction mixture is decomposed at an internal temperature of a maximum of 5° by the careful dropwise addition of a mixture of 9 ml of tetrahydrofuran and 14 ml of ethyl acetate followed by a mixture of 9 ml of tetrahydrofuran and 14 ml of water, and after the addition of 70 g of anhydrous sodium sulphate the mixture is stirred without cooling for a further 30 minutes. Solid portions are removed by filtration with suction over a layer of kieselguhr (subsequent washing with tetrahydrofuran) and the filtrate is concentrated under a water-jet vacuum. The amorphous residue is chromatographed over 50 times the amount by weight of silica gel. Elution with a mixture of methylene chloride/acetone (93:7) and evaporation of the solvent yield uniform 17,17-ethylenedioxyandrost-5-ene-3β,11β-diol which, after being dissolved and recrystallised once from methylene chloride/ether, melts at 123°-125°.

reactant | 3β,11β-diacetoxy-17,17-ethylenedioxyandrost-5-ene | 4.7 g | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CCC5([C@@]4(C)C[C@@H]([C@@H]3[C@]2(CC1)C)OC(C)=O)OCCO5 | C25H36O6
reactant | lithium aluminium hydride | 2.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 95 ml | O1CCCC1 | C4H8O
product | 17,17-ethylenedioxyandrost-5-ene-3β,11β-diol | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC=C4C[C@H](CC[C@]4(C)[C@H]2[C@H](C3)O)O)OC1 | C21H32O4
